US06251904B1
3-(2-Phenylethenyl)pyridazine
Zinc chloride (820 mg, 6 mmol) was added to a stirred mixture of benzaldehyde (6.11 ml, 60 mmol) and 3-methylpyridazine (2.83 g, 30 mmol) and the resulting mixture heated for 20 hours at 150° C. The cool reaction mixture was partitioned between dichloromethane (40 ml) and 2M aqueous sodium hydroxide solution (20 ml), then the organic phase separated, combined with a dichloromethane extract (80 ml) of the aqueous phase, dried (Na2SO4) and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel, using dichloromethane: methanol (99:1) as eluant, to give the title compound (59%) as a solid. δ (CDCL3): 7.12 (1H,d), 7.34 (3H,m), 7.56 (2H,d), 7.72 (1H,d), 8.37 (1H,s), 8.50 (1H,s), 8.60 (1H,s). LRMS: m/z 183 (M+1)+.

reactant | benzaldehyde | 60 mmol, 6.11 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | 3-methylpyridazine | 30 mmol, 2.83 g | CC=1N=NC=CC1 | C5H6N2
catalyst | Zinc chloride | 6 mmol, 820 mg | [Cl-].[Zn+2].[Cl-]
product | 3-(2-Phenylethenyl)pyridazine | 59% | C1(=CC=CC=C1)C=CC=1N=NC=CC1 | C12H10N2
